Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Razor blade ingestion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of PTSD and ADHD who presents from ___ 
___ after ingesting a razor blade. Initially 
presented to OSH, but GI physician reportedly unable to get out 
of driveway due to snowstorm so requested transfer to ___. At 
OSH, patient was stable and KUB was done that showed foreign 
body that appeared to be in the stomach.

He did state he was having epigastric pain and tenderness since 
the ingestion. Patient stated that he was not trying to harm or 
kill himself but that he was bored and in prison "you do stupid 
things." He was also anxious about his upcoming court case, 
which may have influenced this decision. Additionally, he was 
upset about not getting his medications (clonidine and 
wellbutrin). He denies any hematemesis or lower GI bleeding 
since the episode. He denies being suicidal. His mood is ok, 
appetite is good, energy level is stable, and no change in 
sleep.

In the ED, initial vital signs were: 97.9 54 152/79 16 100% RA.  

Exam notable for benign abdomen.
Labs were notable for normal chemistries, CBC, and INR. Xrays 
showed razor blade likely in the third portion of the duodenum 
with no evidence of pneumomediastinum or pnuemoperitoneum. ACS 
was consulted and said no surgical intervention needed if 
patient was stable. GI consulted and deferred scope for 
retrieval of the razor.

On Transfer Vitals were:  98.1 47 125/83 16 100%RA. The patient 
reports initially having trouble breathing when the razor was 
high up in his GI tract. This has since passed as his abd pain 
has progressed to now his RLQ. The pain is sharp, constant, 
non-radiating. No exacerbating or ameliorating factors. His last 
BM was am of admission and denied any black stool or bloody 
stools. No N/V, chest pain, SOB, DOE. He is hungry.

 
Past Medical History:
PTSD - patient is unclear when this was diagnosed and by whom or 
for what
ADHD - diagnosed as a child
 
Social History:
___
Family History:
FH of mood disorders in his mother's side
 
Physical ___:
ADMISSION PHYSICAL EXAM
========================
Vitals: 98.1 47 125/83 16 100%RA
General: NAD, sitting comfortably in bed
HEENT: NC/AT, EOMI, PERRL, MMM
NECK: supple, symmetric
CV:  RRR no murmurs, rubs, gallops
Lungs:  CTAB/L no w/r/r
Abdomen:  soft, diffusely tender to palpation; no rebound, no 
guarding, BS+
Ext: WWP, no edema in B/l ___ DP, ___ 2+ b/l
Neuro: Moving all extremities well grossly
Skin:  no rashes appreciated on exam

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 98.0 103/47  (97-130/40-80)  43 (40-60)  16  98%RA
General: NAD, sitting comfortably in bed
HEENT: NC/AT, EOMI, PERRL, MMM
NECK: supple, symmetric
CV:  RRR no murmurs, rubs, gallops
Lungs:  CTAB/L no w/r/r
Abdomen:  soft, diffusely tender to palpation; no rebound, no 
guarding, BS+
Ext: WWP, no edema in B/l ___ DP, ___ 2+ b/l
Neuro: Moving all extremities well grossly
Skin:  no rashes appreciated on exam
 
Pertinent Results:
ADMISSION LABS:
================
___ 06:00AM BLOOD WBC-6.6 RBC-4.99 Hgb-14.4 Hct-42.3 MCV-85 
MCH-28.9 MCHC-34.0 RDW-12.2 RDWSD-36.7 Plt ___
___ 06:00AM BLOOD Neuts-46.8 ___ Monos-8.3 Eos-0.9* 
Baso-0.3 Im ___ AbsNeut-3.10 AbsLymp-2.88 AbsMono-0.55 
AbsEos-0.06 AbsBaso-0.02
___ 06:00AM BLOOD ___ PTT-29.5 ___
___ 06:00AM BLOOD Glucose-81 UreaN-11 Creat-1.0 Na-139 
K-3.5 Cl-102 HCO3-26 AnGap-15

IMAGING:
=========
KUB ___:
No radiopaque structure, consistent with a razor blade, is 
visualized.

KUB ___:
Re-demonstrated radiopaque structure, consistent with a razor 
blade, located in the proximal ascending colon.  No secondary 
signs of free intraperitoneal air. 

KUB ___:
Radiopaque structure, consistent with a razor blade, located in 
the proximal ascending colon. No signs of intra-abdominal free 
air. If clinical concern for pneumoperitoneum, an upright 
abdominal radiograph could be considered. 

KUB ___:
Radiopaque structure, consistent with a razor blade, located in 
the cecum.  No signs of intra-abdominal free air.  If clinical 
concern for pneumoperitoneum, an upright abdominal radiograph 
could be considered.

KUB ___:
Radiopaque structure, consistent with a razor blade, located in 
the cecum.  No secondary signs of intra-abdominal free air.  If 
clinical concern for pneumoperitoneum persists, an upright 
abdominal radiograph could be considered. 

KUB ___:
IMPRESSION:  
Curvilinear radiopacity within posterior mid abdomen.  In 
combination with frontal radiograph this is within the third 
portion of the duodenum. 

DISCHARGE LABS:
================
___ 06:00AM BLOOD WBC-5.6 RBC-4.26* Hgb-12.3* Hct-36.7* 
MCV-86 MCH-28.9 MCHC-33.5 RDW-12.5 RDWSD-38.8 Plt ___rief Hospital Course:
___ year old male with PMH anxiety, PTSD and incarceration who 
presented following ingestion of a razor. Abdominal exam benign 
and patient was HD stable. Surgery was consulted who recommended 
serial KUBs and abdominal exams without need for intervention 
unless there was evidence of perforation/complications. Given 
the location of the razor in the distal jejunum/proximal ileum, 
GI deferred endoscopic retrieval as unlikely to be successful. 
The patient was monitored with serial abdominal exams and daily 
KUBs without evidence of complications. He was placed on a bowel 
regimen to promote GI motility, which he tolerated well. He was 
monitored until razor passed in the stool (verified as absent on 
last abd xray). He remained hemodynamically stable with stable 
hemoglobin without evidence of bleed throughout his 
hospitalization.

Chronic Issues:
# Anxiety: Continued home wellbutrin and clonidine

Transitional Issues:
=====================
-Monitor stools to ensure no evidence of bleed/perforation
-continue education and counseling for mental health and 
avoidance of repeat swallowing
-Code: Full
-Contact: Department of ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 50 mg PO BID 
2. CloniDINE 0.1 mg PO BID 

 
Discharge Medications:
1. BuPROPion 50 mg PO BID 
2. CloniDINE 0.1 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Razor ingestion, incarceration
Secondary: Anxiety, post-traumatic stress disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for monitoring after 
you ingested a razor. Upon admission, the surgery and GI teams 
were consulted and it was determined that no procedure was 
necessary as you would likely pass the razor on your own. We 
monitored your abdominal exam and obtained daily imaging and you 
passed the razorblade as it was no longer seen on imaging.

In the future, please do not swallow non-food objects including 
razors as this can be life threatening and lead to serious 
complications including bowel perforation, bleeding, infection, 
and death.

We wish you all the best!
-Your ___ Team
 
Followup Instructions:
___